US06730668B2
Preparation of 6-dimethylamino-2-(4-fluorophenyl)-3-[2-(1-(S)-phenylethylamino)-pyrimidin-4-yl]-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one (26):
A solution of the crude 6-dimethylamino-2-(4-fluorophenyl)-3-(2-methanesulfonyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one, 25, prepared as described herein above (4.2 g, 10 mmol) and (S)-(−)-α-methyl-benzyl amine (45.2 mL, 351 mmol) are dissolved in toluene (100 mL). The resulting mixture is heated to 140° C. for 12 hours, cooled to room temperature and the solvent removed in vacuo. The resulting residue is purified over silica (1:1 EtOAc/hexanes) to afford the desired product.

reactant | 6-dimethylamino-2-(4-fluorophenyl)-3-(2-methanesulfonyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | CN(C1CN2N(C1)C(C(=C2C2=NC(=NC=C2)S(=O)(=O)C)C2=CC=C(C=C2)F)=O)C | C19H20FN5O3S
reactant | (S)-(−)-α-methyl-benzyl amine | 351 mmol, 45.2 mL | C[C@@H](C1=CC=CC=C1)N | C8H11N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 6-dimethylamino-2-(4-fluorophenyl)-3-[2-(1-(S)-phenylethylamino)-pyrimidin-4-yl]-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | CN(C1CN2N(C1)C(C(=C2C2=NC(=NC=C2)N[C@@H](C)C2=CC=CC=C2)C2=CC=C(C=C2)F)=O)C | C26H27FN6O
